US06806026B2
Preparation of 1,1,1-trifluoro-2-trifluoromethyl-2-hydroxy-4-pentyl Methacrylate (III)
The title compound was prepared in the same fashion as the above described methacrylate using 142 g (0.63 mol) of 1,1,1-trifluoro-2-trifluoromethyl-2,4-pentanediol, 793 mL (1.27 mol) of n-butyllithium (1.6M in hexane) and 73 g (0.69 mol) of methacryloyl chloride to yield, after distillation at 67° C. at 1.0 mm Hg, 142 g (76%) of the 2° methacrylate as a clear, colorless oil.

reactant | methacrylate | 0.63 mol, 142 g | C(C(=C)C)(=O)[O-]
reactant | 1,1,1-trifluoro-2-trifluoromethyl-2,4-pentanediol | FC(C(CC(C)O)(O)C(F)(F)F)(F)F | C6H8F6O2
reactant | n-butyllithium | 1.27 mol, 1.6M, 793 mL | C(CCC)[Li]
reactant | methacryloyl chloride | 0.69 mol, 73 g | C(C(=C)C)(=O)Cl | C4H5ClO
product | 1,1,1-trifluoro-2-trifluoromethyl-2-hydroxy-4-pentyl Methacrylate | C(C(=C)C)(=O)OC(CC(C(F)(F)F)(O)C(F)(F)F)C | C10H12F6O3
